US04743601
3-Bromo-7-chloro-N-(2-hydroxy-1-methylethyl)-4-quinolinamine
A mixture of 12 g of 7-chloro-N-(2-hydroxy-1-methylethyl)-4-quinolinamine and 112 ml of acetic acid was stirred at room temperature and to it 8 g of bromine was added dropwise over a thirty minute period. The product precipitated from the solution as the hydrobromide salt and it was isolated by filtration, dissolved in water and basified with sodium hydroxide. The free base was extracted into dichloromethane and evaporation of solvents resulted in a solid which was purified by HPLC using 95:5 dichloromethane/methanol as the eluent. Recrystallization from isopropanol yielded 9 g of crystalline solid with a melting point of 145°-147° C.

reactant | 7-chloro-N-(2-hydroxy-1-methylethyl)-4-quinolinamine | 12 g | ClC1=CC=C2C(=CC=NC2=C1)NC(CO)C | C12H13ClN2O
reactant | acetic acid | 112 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 8 g | BrBr | Br2
solvent | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 3-Bromo-7-chloro-N-(2-hydroxy-1-methylethyl)-4-quinolinamine | 9 g | BrC=1C=NC2=CC(=CC=C2C1NC(CO)C)Cl | C12H12BrClN2O
